US06521649B1
Production of sodium 4-ethyl-1,2,3-thiadiazole-5-carboxylate (Compound No. 8)
To a solution of 0.13 g of sodium hydroxide in 3 ml of ethanol was added 0.5 g of 4-ethyl-1,2,3-thiadiazole-5-carboxylic acid, and the reaction was carried out at room temperature for 24 hours.

reactant | sodium hydroxide | 0.13 g | [OH-].[Na+]
reactant | 4-ethyl-1,2,3-thiadiazole-5-carboxylic acid | 0.5 g | C(C)C=1N=NSC1C(=O)O | C5H6N2O2S
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | sodium 4-ethyl-1,2,3-thiadiazole-5-carboxylate | C(C)C=1N=NSC1C(=O)[O-].[Na+] | InChI=1S/C5H6N2O2S.Na/c1-2-3-4(5(8)9)10-7-6-3;/h2H2,1H3,(H,8,9);/q;+1/p-1
